US07345178B2
Preparation of 2-(3-Dimethylaminomethyl-imidazo[1,2-a]pyridin-2-yl)-phenylamine
To 3-Chloromethyl-2-(2-nitro-phenyl)-imidazo[1,2-a]pyridine (324 mg, 1.0 mmol) suspended in CH2Cl2 (20 ml) cooled to 0° C. was added dropwise triethylamine (303 mg, 3 eq), followed by 2 M dimethylamine in THF (8 mmol, 4 ml) in two portions over a 5 hour period. The reaction mixture was concentrated to dryness, dissolved in CH2Cl2 (20 ml) washed with water, brine, dried over Na2SO4, concentrated and purified by chromatography using a 9:1 mixture of CH2Cl2 /MeOH. The fractions were concentrated, dissolved in THF (15 ml), and stirred over H2 balloon with 10% Pd/C (10 mg) overnight. The reaction mixture was filtered through Celite and concentrated to obtain the product as a yellow solid (164 mg). (MS, M++H=267.1)

reactant | 3-Chloromethyl-2-(2-nitro-phenyl)-imidazo[1,2-a]pyridine | 1.0 mmol, 324 mg | ClCC1=C(N=C2N1C=CC=C2)C2=C(C=CC=C2)[N+](=O)[O-] | C14H10ClN3O2
reactant | triethylamine | 303 mg, 3 eq | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | THF | 8 mmol, 4 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Dimethylaminomethyl-imidazo[1,2-a]pyridin-2-yl)-phenylamine | 164 mg | CN(C)CC1=C(N=C2N1C=CC=C2)C2=C(C=CC=C2)N | C16H18N4
